US08053453B2
1) Synthesis of 1-(4-tert-butylphenyl)-5-hydroxy-3-methyl-1H-pyrazole-4-carbaldehyde
1.89 g (9.33 mmol) of 1-(4-tert-butylphenyl)-5-hydroxy-3-methyl-1H-pyrazole was dissolved in 3.6 ml of dry dimethylformamide, and 1.05 ml (11.26 mmol) phosphorus oxychloride was added gradually at 20° C. or below under cooling with ice. After the addition, the mixture was heated at 100° C. for 3 hours, then cooled to room temperature and poured into 30 ml of ice-cold water. The mixed solution was stirred at room temperature for 18 hours, and the precipitated solid was collected by filtration, washed with 20 ml of water and dried to obtain 1.61 g of the above-identified desired product as a yellow solid (yield 70%).

reactant | 1-(4-tert-butylphenyl)-5-hydroxy-3-methyl-1H-pyrazole | 9.33 mmol, 1.89 g | C(C)(C)(C)C1=CC=C(C=C1)N1N=C(C=C1O)C | C14H18N2O
reactant | phosphorus oxychloride | 11.26 mmol, 1.05 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dimethylformamide | 3.6 ml | CN(C=O)C | C3H7NO
product | 1-(4-tert-butylphenyl)-5-hydroxy-3-methyl-1H-pyrazole-4-carbaldehyde | 1.61 g, yield 70% | C(C)(C)(C)C1=CC=C(C=C1)N1N=C(C(=C1O)C=O)C | C15H18N2O2
